US03962227
p-Nitrobenzyl 7-phenylacetamido-3-hydroxy-3-cephem-4-carboxylate
Following the ozonization procedures described in Example 9, a solution of 350 mg. of p-nitrobenzyl 7-phenylacetamido-3-methylenecepham-4-carboxylate in 250 ml. of methylene chloride was cooled to -78°C. and was ozonized. The intermediate ozonide was decomposed in situ with sulfur dioxide and the reaction product was recovered and obtained crystalline by extraction with ethyl acetate.

reactant | p-nitrobenzyl 7-phenylacetamido-3-methylenecepham-4-carboxylate | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)=C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H21N3O6S
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | p-Nitrobenzyl 7-phenylacetamido-3-hydroxy-3-cephem-4-carboxylate | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C22H19N3O7S
